US08309580B2
3-[{[4-({cyclohexyl[5-(6-methoxypyridin-2-yl)-2-methylfuran-3-yl]methyl}amino)phenyl]carbonyl}(methyl)amino]propanoic acid
A solution of 4-({cyclohexyl[5-(6-methoxypyridin-2-yl)-2-methylfuran-3-yl]methyl}amino)benzoic acid (210 mg), ethyl 3-(methylamino)propanoate (79 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (115 mg), hydroxybenzotriazole monohydrate (92 mg) and triethylamine (84 μL) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 4 hr. Ethyl acetate was added, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and water, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure. To the residue were added ethanol (2 mL), tetrahydrofuran (2 mL) and 1N lithium hydroxide (1.0 mL), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and water (10 mL) was added. The mixture was neutralized with 1N hydrochloric acid under ice-cooling, and stirred for 1 hr. The resulting precipitate was collected by filtration and dried to give the title compound (216 mg, 85%).

reactant | 4-({cyclohexyl[5-(6-methoxypyridin-2-yl)-2-methylfuran-3-yl]methyl}amino)benzoic acid | 210 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=NC(=CC=C1)OC)C)NC1=CC=C(C(=O)O)C=C1 | C25H28N2O4
reactant | ethyl 3-(methylamino)propanoate | 79 mg | CNCCC(=O)OCC | C6H13NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 115 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole monohydrate | 92 mg | O.OC1=CC=CC=2NN=NC21
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 84 μL | C(C)N(CC)CC | C6H15N
product | 3-[{[4-({cyclohexyl[5-(6-methoxypyridin-2-yl)-2-methylfuran-3-yl]methyl}amino)phenyl]carbonyl}(methyl)amino]propanoic acid | 216 mg, 85% | C1(CCCCC1)C(C1=C(OC(=C1)C1=NC(=CC=C1)OC)C)NC1=CC=C(C=C1)C(=O)N(CCC(=O)O)C | C29H35N3O5
